US04495202
D. Preparation of 4'-iodo-4,4"-dimethoxy-1,1':2',1"-terphenyl
A solution of 53.9 g. of 4'-amino-4,4"-dimethoxy-1,1':2',1"-terphenyl in 79 ml. of hydrochloric acid and 120 ml. of water was cooled by means of an external ice bath to about 0° C. A solution of 13.11 g. of sodium nitrate in 100 ml. of water was added over a ten minute period. After stirring an additional ten minutes, a solution of 29.9 g. of potassium iodide in 100 ml. of water was added over a 30 minute period. The solution was allowed to stand overnight without stirring. The reaction was then heated on a steam bath for 30 minutes. After cooling, two liters of ethyl acetate were added. The layers were separated and the aqueous layer was extracted four times each with 500 ml. of ethyl acetate. The combined organic extracts were washed four times each with 250 ml. of a 10% aqueous sodium thiosulfate solution, dried over sodium sulfate, filtered and evaporated in vacuo. The residue was purified by chromatography over silica gel to provide 35.12 g. of the desired iodo intermediate.

reactant | 4'-amino-4,4"-dimethoxy-1,1':2',1"-terphenyl | NC=1C=C(C(=CC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H19NO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | ethyl acetate | two liters | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4'-iodo-4,4"-dimethoxy-1,1':2',1"-terphenyl | IC=1C=C(C(=CC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H17IO2
